US07732446B1
[6,7-Dimethoxy-4-(4-methyl-thiazol-2-ylamino)-isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester (11.6 mg, 0.0269 mmol) in CH2Cl2 (0.6 mL) was added a 4.0 M HCl solution in dioxane (0.40 mL) at room temp. After the reaction mixture was stirred at room temperature for 5.0 h, the suspension was filtered. The yellow solid was further dried in vacuo to give (1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-(4-methyl-thiazol-2-yl)amine hydrochloride salt (7.4 mg; 75%). 1H-NMR (D2O): δ, 8.33 (s, 1H), 7.26 (s, 1H), 7.15 (s, 1H), 6.34 (s, 1H), 4.70 (s, 2H), 3.88 (s, 3H), 3.81 (s, 3H), 2.05 (s, 3H); MS: calculated for C16H19N4O2S (M−Cl) 331.0; found: 331.0.

reactant | [6,7-Dimethoxy-4-(4-methyl-thiazol-2-ylamino)-isoquinolin-1-ylmethyl]carbamic acid tert-butyl ester | 0.0269 mmol, 11.6 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)NC=1SC=C(N1)C)=O | C21H26N4O4S
reactant | HCl | 4.0 M | Cl | ClH
solvent | CH2Cl2 | 0.6 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.40 mL | O1CCOCC1 | C4H8O2
product | (1-aminomethyl-6,7-dimethoxy-isoquinolin-4-yl)-(4-methyl-thiazol-2-yl)amine hydrochloride salt | 7.4 mg, 75% | Cl.NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)NC=1SC=C(N1)C | InChI=1S/C16H18N4O2S.ClH/c1-9-8-23-16(19-9)20-13-7-18-12(6-17)10-4-14(21-2)15(22-3)5-11(10)13;/h4-5,7-8H,6,17H2,1-3H3,(H,19,20);1H
